US07202350B2
Sodium borohydride (1.3 g) was added to a solution of 6-methyl-indane-1-one (5.0 g) in methanol (50 ml) at 0° C., and the mixture was stirred for one hour. The reaction mixture was poured into ice-cooled water, and extracted with ethyl acetate. The organic layer was washed with saturated saline solution and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated to obtain 6-methylindane-1-ol (5.5 g). To a solution of 6-methylindane-1-ol in toluene (50 ml) was added p-toluene sulfonic acid monohydrate (0.2 g), and the mixture was stirred for 20 minutes. The temperature of the reaction mixture was returned to room temperature, and the reaction mixture was washed with water, 5% sodium hydrogencarbonate aqueous solution, and saturated saline solution in order and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated to obtain 5-methyl-1H-indene (5.5 g).

reactant | 6-methylindane-1-ol | CC1=CC=C2CCC(C2=C1)O | C10H12O
reactant | p-toluene sulfonic acid monohydrate | 0.2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-methyl-1H-indene | 5.5 g | CC=1C=C2C=CCC2=CC1 | C10H10
